US04556413
from 2-bromopropionic acid, dimethyl sulphoximine and 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoic acid using sodium methylate as the base and 1,2-dimethoxyethane as the solvent there is obtained N-{2-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyloxy]-propionyl}-S,S-dimethyl-sulphoximine as a yellow resin; 1H-NMR (CDCl3): 8.20-6.90 (m,6H), 5.28 (q,1H), 3.37 (s,6H), 1.62 (d,3H);

reactant | 2-bromopropionic acid | BrC(C(=O)O)C | C3H5BrO2
reactant | dimethyl sulphoximine | CS(=O)(=N)C | C2H7NOS
reactant | 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoic acid | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | sodium methylate | C[O-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | N-{2-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyloxy]-propionyl}-S,S-dimethyl-sulphoximine | ClC1=C(OC=2C=CC(=C(C(=O)OC(C(=O)N=S(=O)(C)C)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C19H16ClF3N2O7S
